US07067506B2
Step 2: [2-(3-Dimethylamino-propoxy)-5-methyl-phenyl]-carbamic acid tert-butyl ester.
To a stirred, cooled (about 0° C.) solution of (2-hydroxy-5-methyl-phenyl)-carbamic acid tert-butyl ester (447 mg, 2.0 mmol), triphenyl phosphine (525 mg, 2.0 mmol), and 3-(dimethylamino)-1-propanol (237 μL, 2.0 mmol) in dry tetrahydrofuran (5 mL) was added diisopropyl azodicarboxylate (394 μL, 2.0 mmol) in 1 mL of tetrahydrofuran). After stirring for 12 hours, the reaction was diluted with 30 mL of ethyl acetate and washed with 30 mL of 10% aqueous sodium carbonate (2×30 mL), brine (1×30 mL), then dried (MgSO4), and filtered. The filtered solution was concentrated under reduced pressure to provide the desired crude product.

reactant | (2-hydroxy-5-methyl-phenyl)-carbamic acid tert-butyl ester | 2.0 mmol, 447 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)O)=O | C12H17NO3
reactant | triphenyl phosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(dimethylamino)-1-propanol | 2.0 mmol, 237 μL | CN(CCCO)C | C5H13NO
reactant | diisopropyl azodicarboxylate | 2.0 mmol, 394 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | [2-(3-Dimethylamino-propoxy)-5-methyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)OCCCN(C)C)=O | C17H28N2O3
